US08183281B2
c.) 3-(4-Chloro-2-hydroxy-3-methanesulfonyl-phenylamino)-4-(tetrahydrothiophen-3-ylamino)-cyclobut-3-ene-1,2-dione
The title compound is prepared from 3-(4-chloro-2-hydroxy-3-methanesulfonyl-phenylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione analogously to 6-chloro-2-hydroxy-N,N-dimethyl-3-{2-[(R)-1-((2R,5R)-5-methyl-tetrahydrofuran-2-yl)-propylamino]-3,4-dioxo-cyclobut-1-enylamino}-benzenesulfonamide (Example 3) by replacing (R)-1-((2R,5R)-5-methyl-tetrahydrofuran-2-yl)-propylamine p-toluenesulfonate salt with tetrahydrothiophen-3-ylamine. The reaction is carried out in EtOH. The title compound is obtained. MH+ 403.

reactant | 3-(4-chloro-2-hydroxy-3-methanesulfonyl-phenylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | ClC1=C(C(=C(C=C1)NC=1C(C(C1OCC)=O)=O)O)S(=O)(=O)C | C13H12ClNO6S
reactant | tetrahydrothiophen-3-ylamine | S1CC(CC1)N | C4H9NS
solvent | EtOH | CCO | C2H6O
product | 3-(4-Chloro-2-hydroxy-3-methanesulfonyl-phenylamino)-4-(tetrahydrothiophen-3-ylamino)-cyclobut-3-ene-1,2-dione | ClC1=C(C(=C(C=C1)NC=1C(C(C1NC1CSCC1)=O)=O)O)S(=O)(=O)C | C15H15ClN2O5S2
